US07034045B1
Preparation of [2-Hydroxy-2-(4-iodophenyl)propyl][(methylethyl)sulfonyl]amine
Into a 250 mL 3 necked flask fitted with a stirrer and thermometer, was added dropwise 2-propanesulfonyl chloride (1.60 g, 0.011 mol) to 1-amino-2-(4-iodophenyl)propan-2-ol (2.77 gm, 0.01 mol) in 125 mL CH2Cl2 while stirring at 0° C. under nitrogen. The reaction was then allowed to warm to room temperature and stirred overnight at this temperature. In the morning, the mixture was poured into H2O and the layers were separated. The organic layer was washed once with H2O, dried over anhydrous Na2SO4, filtered, and concentrated under reduced vacuum. The resulting semi-solid was purified via silica gel chromatography employing the Prep. LC-2000 and eluting with a solvent of Hexane/EtOAc 3:1 to provide the intermediate title compound (744 mg, 19%) as a solid material. FDMS 382 (M*).

reactant | 2-propanesulfonyl chloride | 0.011 mol, 1.60 g | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | 1-amino-2-(4-iodophenyl)propan-2-ol | 0.01 mol, 2.77 gm | NCC(C)(O)C1=CC=C(C=C1)I | C9H12INO
reactant | H2O | O | H2O
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | [2-Hydroxy-2-(4-iodophenyl)propyl][(methylethyl)sulfonyl]amine | 744 mg, 19% | OC(CNS(=O)(=O)C(C)C)(C)C1=CC=C(C=C1)I | C12H18INO3S
